Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
bee stings / tomatoes / aspirin / acetaminophen / NSAIDS 
(Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
left arm claudication
 
Major Surgical or Invasive Procedure:
___
left axillary to brachial artery bypass graft with PTFE

 
History of Present Illness:
This is a ___ year old female who had a traumatic injury to the 
left brachial artery resulting in subsequent occlusion. She had 
a stent placed at the site of initial arterial injury but there 
has been subsequent occlusion. She has been experiencing 
intermittent pain in the left upper extremity since and it is 
worse with use of the left upper extremity. She now presents for 
elective left upper extremity axillary-brachial artery bypass 
grafting.
 
Past Medical History:
migraines, copd, dyslipidemia, gerd, type 2 diabetes, hepatitis 
c, thrombocytopenia, bipolar disorder, polysubstance abuse
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Discharge exam:
GEN: alert, orientedx3
CV: borderline elevated rate, regular rhythm
Pulm: nonlabored respirations, clear
Abd: soft, no distention
Ext: warm, well perfused. 2+ left radial pulse. normal capillary 
refill left upper extremity
Incisions: clean, dry, intact, no surrounding erythema
 
Pertinent Results:
___ 07:40AM BLOOD WBC-9.1# RBC-3.39* Hgb-11.2* Hct-32.5* 
MCV-96 MCH-33.1* MCHC-34.4 RDW-13.7 Plt Ct-86*
___ 04:46AM BLOOD WBC-5.8 RBC-3.24* Hgb-10.7* Hct-31.4* 
MCV-97 MCH-32.9* MCHC-34.0 RDW-13.8 Plt Ct-90*
___ 04:21PM BLOOD WBC-7.7 RBC-3.61* Hgb-11.7* Hct-35.3* 
MCV-98 MCH-32.4* MCHC-33.2 RDW-13.6 Plt ___
___ 04:21PM BLOOD ___ PTT-37.5* ___
___ 07:40AM BLOOD Glucose-112* UreaN-6 Creat-0.5 Na-136 
K-3.8 Cl-101 HCO3-29 AnGap-10
___ 04:46AM BLOOD Glucose-99 UreaN-5* Creat-0.6 Na-139 
K-3.6 Cl-103 HCO3-26 AnGap-14
___ 04:21PM BLOOD Glucose-105* UreaN-7 Creat-0.7 Na-140 
K-3.9 Cl-106 HCO3-27 AnGap-11
___ 04:46AM BLOOD Calcium-8.3* Phos-3.2 Mg-1.4*
___ 04:21PM BLOOD Calcium-8.5 Phos-4.1 Mg-1.6
___ 06:40PM BLOOD Ethanol-NEG Bnzodzp-NEG Barbitr-NEG
___ 05:39PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-POS amphetm-NEG mthdone-NEG marijua-NEGATIVE
 
Brief Hospital Course:
The patient was admitted to the Vascular Surgery Service for 
evaluation and treatment.  On ___, the patient underwent 
left axillary to brachial artery bypass grafting with PTFE, 
which went well without complication (reader referred to the 
Operative Note for details). After a brief, uneventful stay in 
the PACU, the patient arrived on the floor NPO, on IV fluids and 
perioperative antibiotics, with a ___ catheter, and IV 
dilaudid for pain control.  The patient was hemodynamically 
stable.

Neuro: The patient received IV dilaudid with good effect and 
adequate pain control.  When tolerating oral intake, the patient 
was transitioned to oral pain medications. The patient was noted 
to be somnolent POD1. When aroused she was conversant and 
answered questions appropriately. Narcotics were held with this 
sedation. The patient also had slurred speech but a nonfocal 
neurological exam. Toxicology screen was sent that returned 
positive for cocaine metabolites. The patient had numerous home 
medications and other unknown pills in her possession and these 
were secured outside of her room after a search that was allowed 
with her permission. She also stated she was not reliably taking 
her seroquel or neurontin as prescribed so these were held when 
the patient was somnolent. Her mental status was improved at the 
time of discharge. SHe was encouraged to discuss with her PCP 
about her not taking seroquel/neurontin reliably and whether she 
needed to adjust her dosing accordingly. The addition of a 
narcotic pain medication and the importance of not taking with 
other substances was discussed with the patient. SHe was kept on 
CIWA protocol while inpatient.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. She was mildly 
tachycardic likely owing to mild withdrawal.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. Diet was advanced when appropriate, which was well 
tolerated.  Patient's intake and output were closely monitored, 
and IV fluid was adjusted when necessary.  Electrolytes were 
routinely followed, and repleted when necessary. ___ catheter 
was removed POD1 and the patient subsequently voided without 
issue.

ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. Patient was discharged 
on 5 days bactrim. 

Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required. Known preopeative 
thrombocytopenia was demonstrated on laboratory values but no 
active issues with postoperative bleeding were appreciated 
requiring intervention.

Prophylaxis: The patient received subcutaneous heparin during 
this stay; was encouraged to get up and ambulate as early as 
possible.

Other: social work was consulted given her past history of 
domestic violence and substance abuse. She felt safe at home and 
did not express any thoughts of harm to self or others. She did 
receive materials about substance abuse therapy.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
1. Amitriptyline 50 mg PO HS 
2. Atorvastatin 40 mg PO DAILY 
3. albuterol prn
4. Gabapentin 600 mg PO TID 
5. Omeprazole 20 mg PO DAILY 
6. QUEtiapine Fumarate 200 mg PO TID 
7. advair
8. metformin 250 mg po daily
 
Discharge Medications:
1. Amitriptyline 50 mg PO HS 
2. Atorvastatin 40 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Capsule Refills:*0
4. Gabapentin 600 mg PO TID 
5. Omeprazole 20 mg PO DAILY 
6. QUEtiapine Fumarate 200 mg PO TID 
7. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*10 Tablet Refills:*0
8. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
do not drink alcohol, take other substances or drive while 
taking oxycodone 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0
9. advair
10. albuterol prn
11. metformin 250 mg po qd
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. left brachial artery occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the arm you were operated 
on:
•Elevate your arm above the level of your heart (use ___ 
pillows) every ___ hours throughout the day and at night
3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
•Take aspirin as instructed 
•Follow your discharge medication instructions

ACTIVITIES:
•No driving until post-op visit and you are no longer taking 
pain medications
•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower - no direct spray on incision, let the soapy 
water run over incision, rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your arm or the 
ability to feel your arm
•Temperature greater than 100.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
 
Followup Instructions:
___